US04512924
A solution of 0.15 g of tert.butyl 8(S)-[1(S)-ethoxycarbonyl-3-phenylpropylamino]-2,3,6,7,8,9-hexahydro-5,9-dioxo-1H,5H-pyrazolo[1,2-a][1,2]diazepine-1(S)-carboxylate in 0.3 ml of acetic acid was treated at room temperature for 0.5 hour with 1.3 ml of 45% hydrogen bromide solution in acetic acid. The mixture was then evaporated and the resulting oily solid was triturated with diethyl ether to give 0.11 g (65%) of 8(S)-[1(S)-ethoxycarbonyl-3-phenylpropylamino]-2,3,6,7,8,9-hexahydro-5,9-dioxo-1H,5H-pyrazolo[1,2-a][1,2]diazepine-1(S)-carboxylic acid hydrobromide in the form of a light tan coloured solid of melting point 207°-210° C.

reactant | tert.butyl 8(S)-[1(S)-ethoxycarbonyl-3-phenylpropylamino]-2,3,6,7,8,9-hexahydro-5,9-dioxo-1H,5H-pyrazolo[1,2-a][1,2]diazepine-1(S)-carboxylate | 0.15 g | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@H]1CCC(N2N(C1=O)[C@@H](CC2)C(=O)OC(C)(C)C)=O | C25H35N3O6
reactant | hydrogen bromide | 1.3 ml | Br | BrH
solvent | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
product | 8(S)-[1(S)-ethoxycarbonyl-3-phenylpropylamino]-2,3,6,7,8,9-hexahydro-5,9-dioxo-1H,5H-pyrazolo[1,2-a][1,2]diazepine-1(S)-carboxylic acid hydrobromide | 0.11 g, 65% | Br.C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@H]1CCC(N2N(C1=O)[C@@H](CC2)C(=O)O)=O | InChI=1S/C21H27N3O6.BrH/c1-2-30-21(29)16(9-8-14-6-4-3-5-7-14)22-15-10-11-18(25)23-13-12-17(20(27)28)24(23)19(15)26;/h3-7,15-17,22H,2,8-13H2,1H3,(H,27,28);1H/t15-,16-,17-;/m0./s1
